US08309737B2
Step A: Preparation of (2S,4S)-1-tert-butyl 2-methyl 4-(7-methoxy-8-methyl-2-(4-(trifluoromethyl)thiazol-2-yl)quinolin-4-yloxy)pyrrolidine-1,2-dicarboxylate BQ.
The 7-methoxy-8-methyl-2-(4-(trifluoromethyl)thiazol-2-yl)quinolin-4-ol BO (10.0 g, 1 eq.), the N-Boc-trans-4-hydroxyproline methyl ester BP (7.20 g, 1 eq.), and the triphenylphosphine (11.56 g, 1.5 eq.) in suspension in THF (250 mL) under N2 were cooled down to 0° C. The DIAD (8.70 mL, 1.5 eq.) was added dropwise. The reaction mixture was allowed to warm up and stir at room temperature for 1.25 hrs, then cooled again at 0° C. and additional 1 more eq. of DIAD was added. The reaction mixture was stirred for 2 hrs at room temperature, and then concentrated in vacuo to 50 mL. Water and ethyl acetate were added and the phases were separated. The aqueous layer was further extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel to yield compound BQ (16.75 g, 87% purity). MS (ESI, EI+) m/z=568.3 (MH+); 626.5 (M+OAc−).

reactant | 7-methoxy-8-methyl-2-(4-(trifluoromethyl)thiazol-2-yl)quinolin-4-ol | COC1=CC=C2C(=CC(=NC2=C1C)C=1SC=C(N1)C(F)(F)F)O | C15H11F3N2O2S
reactant | N-Boc-trans-4-hydroxyproline methyl ester | COC([C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C)=O | C11H19NO5
reactant | triphenylphosphine | 11.56 g, 1.5 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 8.70 mL, 1.5 eq. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | (2S,4S)-1-tert-butyl 2-methyl 4-(7-methoxy-8-methyl-2-(4-(trifluoromethyl)thiazol-2-yl)quinolin-4-yloxy)pyrrolidine-1,2-dicarboxylate | COC1=CC=C2C(=CC(=NC2=C1C)C=1SC=C(N1)C(F)(F)F)O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C26H28F3N3O6S
